* imported from symcirc/test_circuits/Conrad2st.net (github.com/Creapson/symcirc)
* Schematics Netlist *



Q_T1         4 3 5 BC547B
R_R2         4 3 390k
R_R3         4 9 47k
R_R4         5 0 3.9k
C_C3         7 10 22u 
R_R7         0 8 470
C_C2         6 7 47u 
R_R6         9 7 2.2k
V_V2         9 0 DC 20  
C_C4         8 0 100u 
Q_T2         7 4 8 BC547B
R_R5         5 6 39.k
R_R1         2 3 680
V_VIN         1 0  AC 1 sin( 0 0.5 1000hz )
C_C1         1 2 0.22u 
R_RL         10 0 10k

.model BC547B 
+ NPN                                 
+ IS=14.340000E-15 
+ BF=255.9          
+ NF=1            
+ VAF=74.03         
+ IKF=.2847       
+ ISE=14.340000E-15 
+ NE=1.307        
+ BR=6.092        
+ NR=1            
+ RB=10            
+ RC=1            
+ CJE=22.010000E-12 
+ MJE=.377        
+ CJC=7.306000E-12 
+ MJC=.3416       
+ TF=411.100000E-12 
+ XTF=3            
+ VTF=1.7          
+ ITF=.6          
+ TR=46.910000E-09 
+ XTB=1.5          
+ IB=7.44E-06 
+ IC=4.93E-04 
+ VBE=8.72E-01 
+ VBC=-9.27E-02 
+ VCE=9.65E-01 
+ BETADC=6.62E+01 
+ GM=1.76E-02 
+ RPI=3.48E+03 
+ RX=1.44E+02 
+ RO=6.50E+04 
+ CBE=1.48E-13 
+ CBC=1.87E-15 
+ CJS=6.94E-15 
+ BETAAC=6.10E+01 
+ CBX=8.50E-15 
+ FT=1.76E+10 
.end
