* imported from symcirc/test_circuits/MOS_Amp_Example5_d.net (github.com/Creapson/symcirc)
* Schematics Netlist *



R_R1         3 8 1.4MEG
R_Rs         1 2 250
C_C2         4 6 0.1uF 
R_RD         4 8 15k
M_M1         4 3 5 5 MbreakN1           
V_VDD         8 0 15V
C_Cs         0 9 20uF 
R_R2         0 3 1MEG
V_VIN         1 0  AC 1 sin( 0 1 1000hz )
R_RL         6 0 1Meg
C_C1         2 3 1uF 
R_Rsr1         9 5 3k
R_Rsr2         0 9 12100

.end
