* imported from symcirc/test_circuits/simple_lc.net (github.com/Creapson/symcirc)
* Schematics Netlist *



C_C1         1 2 10u 
V_V1         1 0 DC 0 AC 1 
L_L1         2 3 2.533m 
R_R3         3 0 10

.end
